US06930120B2
2-(4-Fluoro-phenoxy)-2-methyl-3-(4-[2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy]-phenyl)-propionic acid
The title compound was prepared from 2-(4-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester using the procedure of Example 63. 1H NMR (400 MHz, CDCl3) δ 7.17 (d, 2H, J=8.60 Hz), 6.93-6.84 (m, 4H), 6.69 (d, 2H, J=8.60 Hz), 4.13 (t, 2H, J=6.06 Hz), 3.22 (d, 1H, J=13.68 Hz), 3.09 (d, 1H, J=13.06 Hz), 2.98 (t, 2H, J=6.06 Hz), 2.31 (s, 3H), 2.17-2.09 (m, 2H), 1.57-1.50 (m, 4H), 1.45-1.37 (m, 4H), 1.35 (s, 3H), 1.31 (s, 3H); MS (ES+) calcd for C29H35NO5F: Found m/e 496.3 (M+1, 100%).

reactant | 2-(4-fluorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)F)=O | C18H19FO4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-(4-Fluoro-phenoxy)-2-methyl-3-(4-[2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy]-phenyl)-propionic acid | FC1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2(CCCCC2)C)C)C=C1 | C29H34FNO5
